US08067445B2
Step 1: (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid
Prepared according to the procedure described in Example 185, Step 1, using the following starting materials: 3-fluoro-5-(trifluoromethyl)phenylacetic acid and benzyl alcohol.

reactant | 3-fluoro-5-(trifluoromethyl)phenylacetic acid | FC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C16H13F3O3
